US07902374B2
In a 1 L round bottom flask, 50.4 g sodium hydroxide (1.26 mol) was dissolved in 500 mL water (˜10% solution). 66.6 g (0.574 mol) 2-chloroethylamine hydrochloride was then added and the solution stirred in an ice bath at 0° C. until the salt was completely dissolved. 100 g (0.631 mol) 4-fluorobenzoyl chloride was then added dropwise via an addition funnel into the vigorously stirred solution. After addition, the solution stirred at 0° C. for 1 hour followed by stirring at room temperature for 1 hour. The cloudy mixture was then filtered to remove the water and the solids washed with ether and then filtered to give 118 g crude (slightly wet) benzamide (Alternatively, the solids could be dissolved in methylene chloride, dried with magnesium sulfate, filtered and evaporated to completely remove water from the solids). These solids were recrystallized from 120 ml EtOAc/200 mL hexanes to give 88.2 g crystalline N-(2-chloroethyl)-4-fluorobenzamide after hexanes wash and drying (an additional 6.22 g benzamide recrystallized from the original water mother liquor). NMR confirmed the structure of this compound (81.4% total yield).

reactant | sodium hydroxide | 1.26 mol, 50.4 g | [OH-].[Na+]
reactant | 2-chloroethylamine hydrochloride | 0.574 mol, 66.6 g | Cl.ClCCN
reactant | 4-fluorobenzoyl chloride | 0.631 mol, 100 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | water | 500 mL | O | H2O
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
